*****************************************************************
* NXP BUK9Y12-100E
*
* Polarity N-Channel
* Ratings 100V/1.200000E-002OHMS/84.8334902580844A
*
* Date Created Tue Feb 05 06:57:53 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y12-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00864288304534647 TC=0.00576809989319085,3.42430807091072E-05
RBD 9 4 0.000902169004664802 TC=0.00576809989319085,3.42430807091072E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.16533297703792e-09
RG 1 2 2.28727376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	3691.077
+ -16	3689.627
+ -10	3682.727
+ -5	3661.297
+ -4	3647.517
+ -3	3609.037
+ -2	5624.797
+ -1	4228.987
+ -0.5	3153.567
+ -0.2	2276.297
+ -0.1	1994.527
+ 0	1748.7755
+ 0.1	1476.542
+ 0.2	1282.379
+ 0.5	988.188
+ 1	799.944
+ 2	579.855
+ 3	489.045
+ 4	436.172
+ 5	398.693
+ 6	368.864
+ 8	326.925
+ 10	297.349
+ 12	274.813
+ 15	249.907
+ 20	220.344
+ 25	199.549
+ 30	183.855
+ 50	146.053
+ 80	108.251



.MODEL MINT NMOS(Vto=2.07950061279012 Kp=5.841960e+002 Nfs=310000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=4.75892817509761e-12
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=1.274181e-09 Tt=4.337876e-08)

.ENDS

